US05618953
A process for producing 3-methyltetrahydrofuran, wherein in a first step, prussic acid is reacted with methyl methacrylate to produce methyl 3-cyanoisobutyrate. The methyl 3-cyanoisobutyrate is then reacted with water and sulfuric acid to produce a resultant product which is reacted with a C1 -C8 aliphatic alcohol to produce a methylsuccinic acid ester. The methylsuccinic acid ester is catalytically hydrogenated to prepare the 3-methyltetrahydrofuran. Alternatively, the methyl 3-cyanoisobutyrate is hydrated to produce methyl 3-carbamoylisobutyrate, which is then reacted with a formic acid ester to form a methylsuccinic acid ester and formamide and the resultant methylsuccinic acid ester is catalytically hydrogenated. The 3-methyltetrahydrofuran is produced in high selectivity and in a commercially advantageous manner from inexpensive reactants. The 3-methyltetrahydrofuran is useful as a commoner for producing polyether glycol, which is utilized as starting raw material for preparing spandex fiber.

reactant | 3-methyltetrahydrofuran | CC1COCC1 | C5H10O
reactant | methyl 3-cyanoisobutyrate | C(#N)CC(C(=O)OC)C | C6H9NO2
product | methyl 3-carbamoylisobutyrate | C(N)(=O)CC(C(=O)OC)C | C6H11NO3
